US06235731B1
3) Synthesis of tert-butyl 4-amino-1-piperidinecarboxylate
A solution of 7.35 g (24.8 mM) of tert-butyl 4-trifluoroacetamido-1-piperidinecarboxylate and 5.71 g (41.3 mM) of potassium carbonate in 50 ml of methanol was stirred at 60° C. for 8 hours. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and the mixture was saturated with sodium chloride and extracted with 10 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure to recover the title compound as light-yellow liquid. This crude product was not purified but used as it was in the next reaction.

reactant | tert-butyl 4-trifluoroacetamido-1-piperidinecarboxylate | 24.8 mM, 7.35 g | FC(C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C12H19F3N2O3
reactant | potassium carbonate | 41.3 mM, 5.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | tert-butyl 4-amino-1-piperidinecarboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
